US04404203
A mixture of 2,3-dihydro-3-oxo-6-phenyl-4-pyridazinecarboxylic acid (1.92 g) ethyl chloroformate (1.1 g) and triethylamine (2.0 ml) in 50 ml of dichloromethane is allowed to stir at 25°-30° C. for 2 hours. Ammonia gas is then bubbled into the mixture for 15 minutes. Water (50 ml) is added and the dichloromethane is separated and concentrated on the rotary evaporator. The residue is chromatographed on silica gel with 2% methanol and chloroform to give 2,3-dihydro-3-oxo-6-phenyl-4-pyridazinecarboxamide.

reactant | 2,3-dihydro-3-oxo-6-phenyl-4-pyridazinecarboxylic acid | 1.92 g | O=C1NN=C(C=C1C(=O)O)C1=CC=CC=C1 | C11H8N2O3
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2,3-dihydro-3-oxo-6-phenyl-4-pyridazinecarboxamide | O=C1NN=C(C=C1C(=O)N)C1=CC=CC=C1 | C11H9N3O2
